US07612201B2
Benzyl bromide (35.6 mL, 0.3 mol) was added to a suspension of 2,4-dihydroxyacetophenone (15 g, 0.1 mol) and potassium carbonate (41.4 g, 0.3 mol) in acetonitrile (150 mL) and the mixture stirred overnight. After concentration to dryness, the residues were resuspended in dichloromethane (100 mL) and washed with water (100 mL). The organic phase was dried over magnesium sulphate and concentrated. Trituration with hexanes, filtration and drying in vacuo gave 1-(2,4-Bis-benzyloxyphenyl)-ethanone as a white powder (26 g).

reactant | Benzyl bromide | 0.3 mol, 35.6 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2,4-dihydroxyacetophenone | 0.1 mol, 15 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | potassium carbonate | 0.3 mol, 41.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 1-(2,4-Bis-benzyloxyphenyl)-ethanone | 26 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(C)=O | C22H20O3
